US06326386B1
(2-{3-Chloro-5-[cyclopentyl-(3-hydroxy-propyl)-carbamoyl]-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester
To {2-[3-(allyl-cyclopentyl-carbamoyl)-5-chloro-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester (0.11 g) was added 9-BBN (0.5M in THF, 2.2 ml) and the resulting solution stirred at room temperature under nitrogen for 20 h. A mixture of 28% aqueous hydrogen peroxide solution (1.8 ml) and 2M aqueous sodium hydroxide (0.9 ml) was added and the reaction mixture stirred at reflux for 2 h. The solvent was removed in vacuo and the residue purified by preparative hplc and the title compound (0.064 g) was obtained as a colourless gum by concentration of the required fraction under reduced pressure and drying by repetitive addition of acetonitrile and concentration under reduced pressure.

reactant | {2-[3-(allyl-cyclopentyl-carbamoyl)-5-chloro-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester | 0.11 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)Cl)C(N(C1CCCC1)CC=C)=O)=O | C27H34ClN3O4
reactant | 9-BBN | 0.5M, 2.2 ml | B1C2CCCC1CCC2 | C8H15B
reactant | hydrogen peroxide | 1.8 ml | OO | H2O2
reactant | sodium hydroxide | 2M, 0.9 ml | [OH-].[Na+]
product | (2-{3-Chloro-5-[cyclopentyl-(3-hydroxy-propyl)-carbamoyl]-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester | 0.064 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(CCCO)C1CCCC1)=O)Cl)=O | C27H36ClN3O5
